US05500422
Ethyl [4-(4-amino-5-chloro-2-methoxybenzamido)-piperidino]acetate hydrochloride
A mixture of-3.20 g of 4-amino-5-chloro-2-methoxy-N-(4-piperidinyl)benzamide hydrochloride, 1.22 ml of ethyl bromoacetate, 3.04 g of porassium carbonate, and 32 ml of N,N-dimethylformamide was stirred for 2.5 hours with heating at 60° C. The reaction mixture was concentrated under reduced pressure, and then the residue was added with water and extracted with dichloromethane. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to give brown oil. The result was converted to the hydrochloride by an ordinary method to afford 3.31 g of pale yellow crystals. Recrystallization from ethanol gave colorless plates, m.p. 196.5°-198.5° C.

reactant | 4-amino-5-chloro-2-methoxy-N-(4-piperidinyl)benzamide hydrochloride | 3.20 g | Cl.NC1=CC(=C(C(=O)NC2CCNCC2)C=C1Cl)OC
reactant | ethyl bromoacetate | 1.22 ml | BrCC(=O)OCC | C4H7BrO2
reactant | carbonate | 3.04 g | C([O-])([O-])=O
reactant | hydrochloride | Cl | ClH
solvent | N,N-dimethylformamide | 32 ml | CN(C=O)C | C3H7NO
product | Ethyl [4-(4-amino-5-chloro-2-methoxybenzamido)-piperidino]acetate hydrochloride | 3.31 g | Cl.NC1=CC(=C(C(=O)NC2CCN(CC2)CC(=O)OCC)C=C1Cl)OC | InChI=1S/C17H24ClN3O4.ClH/c1-3-25-16(22)10-21-6-4-11(5-7-21)20-17(23)12-8-13(18)14(19)9-15(12)24-2;/h8-9,11H,3-7,10,19H2,1-2H3,(H,20,23);1H
